US08119661B2
(3aR,7aS)-1-[1-[1-(cyclopropanecarbonyl)-4-methyl-4-piperidyl]-4-piperidyl]-3a,4,5,6,7,7a-hexahydro-3H-indol-2-one
A solution of (3aR,7aS)-1-[1-(4-methyl-4-piperidyl)-4-piperidyl]-3a,4,5,6,7,7a-hexahydro-3H-indol-2-one (70 mg, 0.22 mmol) in DMF (3 mL) was added with cyclopropane carboxylic acid (18.86 mg, 0.22 mmol) and diisopropylethyl amine (0.046 mL, 0.26 mmol) at room temperature. After 5-10 minutes HATU (83 mg, 0.22 mmol) was added and the mixture stirred at room temperature over night. The solvent was removed in vacuo, the residue dissolved in dichloromethane (60 mL) and washed with 1N NaOH (7 mL) and brine and concentrated in vacuo. The residue was purified by preparative LC/MS (high pH) to provide the title compound (58 mg, 69%). 1H NMR (400 MHz, CHLOROFORM-D) δ ppm 0.54-0.74 (m, 2H), 0.77-0.95 (m, 2H), 0.84 (s, 3H), 1.01-1.44 (m, 6H), 1.45-1.84 (m, 11H), 2.01-2.15 (m, 2H), 2.19-2.40 (m, 2H), 2.73-3.06 (m, 3H), 3.17-3.32 (m, 1H), 3.37 (s, 1H), 3.44-3.68 (m, 2H), 3.69-3.80 (m, 1H), 3.81-3.97 (m, 1H). MS (M+1): 388.3.

reactant | (3aR,7aS)-1-[1-(4-methyl-4-piperidyl)-4-piperidyl]-3a,4,5,6,7,7a-hexahydro-3H-indol-2-one | 0.22 mmol, 70 mg | CC1(CCNCC1)N1CCC(CC1)N1C(C[C@H]2CCCC[C@H]12)=O | C19H33N3O
reactant | cyclopropane carboxylic acid | 0.22 mmol, 18.86 mg | C1(CC1)C(=O)O | C4H6O2
reactant | diisopropylethyl amine | 0.26 mmol, 0.046 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | HATU | 0.22 mmol, 83 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (3aR,7aS)-1-[1-[1-(cyclopropanecarbonyl)-4-methyl-4-piperidyl]-4-piperidyl]-3a,4,5,6,7,7a-hexahydro-3H-indol-2-one | 58 mg, 69% | C1(CC1)C(=O)N1CCC(CC1)(C)N1CCC(CC1)N1C(C[C@H]2CCCC[C@H]12)=O | C23H37N3O2
